US03973962
Preparation of 4-(4'-dimethylaminophenyl)-2,6-diphenylthiapyrylium 4-(4'-diethylaminophenylazo) benzenesulfonate having structural formula IV below: ##SPC19##
To a solution of 4-(4'-dimethylaminophenyl)-2,6-diphenylthiapyrylium chloride, 8.07 g, in a warm mixture of water, 400 mls, and ethanol, 100 mls, is added a solution of Ethyl Orange, E.K. 122, 7.5 g in warm water, 200 mls, in portions with stirring.

reactant | 4-(4'-dimethylaminophenyl)-2,6-diphenylthiapyrylium chloride | [Cl-].CN(C1=CC=C(C=C1)C1=CC(=[S+]C(=C1)C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | ethanol | C(C)O | C2H6O
reactant | Ethyl Orange | CCN(CC)C1=CC=C(C=C1)N=NC2=CC=C(C=C2)S(=O)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 4-(4'-dimethylaminophenyl)-2,6-diphenylthiapyrylium 4-(4'-diethylaminophenylazo) benzenesulfonate | C(C)N(C1=CC=C(C=C1)N=NC1=CC=C(C=C1)S(=O)(=O)[O-])CC.CN(C1=CC=C(C=C1)C1=CC(=[S+]C(=C1)C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C25H22NS.C16H19N3O3S/c1-26(2)23-15-13-19(14-16-23)22-17-24(20-9-5-3-6-10-20)27-25(18-22)21-11-7-4-8-12-21;1-3-19(4-2)15-9-5-13(6-10-15)17-18-14-7-11-16(12-8-14)23(20,21)22/h3-18H,1-2H3;5-12H,3-4H2,1-2H3,(H,20,21,22)/q+1;/p-1
